US08461179B1
TFA (5.55 g, 48.7 mmol) was added to 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-isopropyl-1,6-naphthyridin-2(1H)-one (0.78 g, 1.62 mmol) and the reaction was stirred for 90 min at RT. Water (50 mL) was added and the reaction mixture was carefully treated with solid Na2CO3 until it was faintly basic. The solution was extracted with EtOAc (2×), and the combined organics were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography (MeOH/DCM) to afford 3-(5-amino-2-chloro-4-fluorophenyl)-1-isopropyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (0.42 g, 72% yield) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 8.34 (s, 1H), 7.60 (s, 1H), 7.17 (d, J=11.2 Hz, 1H), 6.95 (q, J=4.8 Hz, 1H), 6.71 (d, J=9.6 Hz, 1H), 6.41 (s, 1H), 5.30 (s, 2H), 5.08 (br s, 1H), 2.84 (d, J=4.8 Hz, 3H), 1.49 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 361.0 [M+H]+.

reactant | TFA | 48.7 mmol, 5.55 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chloro-4-fluorophenyl)-1-isopropyl-1,6-naphthyridin-2(1H)-one | 1.62 mmol, 0.78 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C(C)C)=O)C2=C(C=C(C(=C2)N)F)Cl)C)C=C1 | C26H26ClFN4O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | Water | 50 mL | O | H2O
product | 3-(5-amino-2-chloro-4-fluorophenyl)-1-isopropyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 0.42 g, 72% yield | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C(C)C)=O)Cl)F | C18H18ClFN4O
